US06756382B2
Benzoyl chloride (900 mg, 6.40 mmol) was added in a single portion to a cooled (0° C.) solution of 1-(3-aminopropyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (1.9 g, 6.26 mmol) and triethylamine (2 mL) in 1-methyl-2-pyrrolidinone (100 mL). When analysis by HPLC indicated that the reaction was complete, it was diluted with diethyl ether (1 L). The product was salted out by adding 3.3 eq. of a 1.0 M solution of hydrochloric acid in diethyl ether. The solid was isolated by filtration and then dissolved in water. The solution was neutralized using solid potassium carbonate and then extracted with dichloromethane. The extract was concentrated under reduced pressure to provide a solid. This material was recrystallized from 1,2-dichloroethane, slurried with diethyl ether, filtered and then dried in a vacuum oven to provide 1.47 g of N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzamide as a white solid, m.p. 167.8-169.6° C. Analysis: Calculated for C23H29N5O2: % C, 67.05; % H, 7.22; % N, 17.00. Found: % C, 67.17; % H, 7.24; % N, 16.98.

reactant | Benzoyl chloride | 6.40 mmol, 900 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 6.26 mmol, 1.9 g | NCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C16H25N5O
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | N-{3-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}benzamide | 1.47 g | NC1=NC=2CCCCC2C2=C1N=C(N2CCCNC(C2=CC=CC=C2)=O)CCOC | C23H29N5O2
